US07737176B2
Step c): ethyl (E)-4-bromo-3-phenylbut-2-enoate
A mixture of 14 g (74 mmol) of ethyl (E)-3-phenylbut-2-enoate, 0.47 g of 2,2′-azobis(2-methylpropionitrile) and 330 ml of carbon tetrachloride is heated to 75° C. 19.8 g (111 mmol) of N-bromosuccinimide are added portionwise at this temperature. The mixture is then refluxed for five hours. The insoluble material is filtered off at 25° C. The filtrate is washed with water and dried over Na2SO4; the solvents are evaporated off (orange-coloured oil: 19.7 g; 99%).

reactant | ethyl (E)-3-phenylbut-2-enoate | 74 mmol, 14 g | C1(=CC=CC=C1)/C(=C/C(=O)OCC)/C | C12H14O2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.47 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 111 mmol, 19.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 330 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl (E)-4-bromo-3-phenylbut-2-enoate | BrC/C(=C/C(=O)OCC)/C1=CC=CC=C1 | C12H13BrO2
